US07585885B2
3-Bromo-4-fluoro-N,N-dipropylbenzamide
Combine 3-bromo-4-fluorobenzoic acid (5.0 g, 22.8 mmol) with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (4.4 g, 22.8 mmol) and N-hydroxy-succinimide (2.6 g, 22.8 mmol) in dichloromethane (75 mL) and stir at room temperature for 30 min. Add N,N-dipropylamine (4.7 mL, 34.3 mmol) and triethylamine (8.0 mL, 57.1 mol) and stir at room temperature overnight. Dilute with ethyl acetate and wash with 1 N HCl, saturated aqueous potassium carbonate, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 30:70 ethyl acetate:hexanes) to give the title compound.

reactant | 3-bromo-4-fluorobenzoic acid | 22.8 mmol, 5.0 g | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 22.8 mmol, 4.4 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxy-succinimide | 22.8 mmol, 2.6 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-dipropylamine | 34.3 mmol, 4.7 mL | C(CC)NCCC | C6H15N
reactant | triethylamine | 57.1 mol, 8.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-4-fluoro-N,N-dipropylbenzamide | BrC=1C=C(C(=O)N(CCC)CCC)C=CC1F | C13H17BrFNO
